US07897627B2
((R)-3-Amino-pyrrolidin-1-yl)-(2-trifluoromethyl-phenyl)-methanone
A mixture of 0.363 g (1.95 mmol) (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester (commercially available), 0.38 g (2 mmol) 2-trifluoromethyl-benzoic acid (commercially available), 0.69 g (2.15 mmol) TBTU and 0.378 g (2.92 mmol) DIPEA in 8 mL DMF was stirred at room temperature for 16 h. KHSO4 aq. was added and the mixture was extracted with ethyl acetate. The combined organic layers were evaporated and the residue was treated with 4.87 mL 4N HCl in dioxane and stirred for 16 h at room temperature. The mixture was concentrated and methanol and water was added and the mixture was passed over a basic solid phase extraction cartridge eluting with methanol. The title compound was obtained after evaporation and used without further purification in the consecutive step. (MH+) 259.1.

reactant | (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester | 1.95 mmol, 0.363 g | C(C)(C)(C)OC(N[C@H]1CNCC1)=O | C9H18N2O2
reactant | 2-trifluoromethyl-benzoic acid | 2 mmol, 0.38 g | FC(C1=C(C(=O)O)C=CC=C1)(F)F | C8H5F3O2
reactant | TBTU | 2.15 mmol, 0.69 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 2.92 mmol, 0.378 g | CCN(C(C)C)C(C)C | C8H19N
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | ((R)-3-Amino-pyrrolidin-1-yl)-(2-trifluoromethyl-phenyl)-methanone | N[C@H]1CN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
